Tanque
*I1 1 0 PULSE 0 1e-3 0 0 0 1e-5 2e-5 1
V0100 1 0 DC 10
R1 1 2 10000
C1 2 3 1e-9
R2 3 4 10000
R3 4 5 10000
R4 5 0 10000
CX 1 0 68e-9
O1 4 0 1 3
O2 2 0 5 3
.TRAN 6e-3 1e-5 BE 1 UCI